// Dynamic spectrum testbench for configurable_adc (Cadence Spectre).
//
// Run from repo root:
//   spectre testbench/spectre/dynamic_spectrum.scs +log status
//
// Waveforms are exported via Python (nutascii raw -> CSV):
//   python scripts/run_dynamic.py --simulator spectre --output-dir outputs/spectre
//
// Then analyze:
//   python scripts/run_dynamic.py --input outputs/spectre/dynamic_waveform.csv

simulator lang=spectre

include "./testbench/spectre/adc_include.scs"

parameters bits=10
parameters vrefp=1.0
parameters vrefn=0.0
parameters gain=1.01
parameters offset_v=5m
parameters fs=1Meg
parameters num_samples=8192
parameters coherent_bin=997
parameters fin=coherent_bin*fs/num_samples
parameters amplitude=0.95*(vrefp-vrefn)/2
parameters vcm=0.5*(vrefp+vrefn)
parameters t_stop=num_samples/fs

parameters sigma_thermal=250u
parameters jitter_rms=500f
parameters nonlinearity_a2=0.0
parameters nonlinearity_a3=-0.002
parameters dnl_sigma_lsb=0.08
parameters noise_seed=1

VDD (vdd 0) vsource dc=1.0
VSS (vss 0) vsource dc=0.0

VCLK (clk 0) vsource type=pulse \
    val0=0 val1=1 period=1/fs rise=100p fall=100p width=0.5/fs

VSIN (vin 0) vsource type=sine \
    dc=vcm ampl=amplitude freq=fin

ADC (vin clk v_code vdd vss) configurable_adc BITS=bits VREFP=vrefp VREFN=vrefn GAIN=gain OFFSET_V=offset_v SIGMA_THERMAL=sigma_thermal JITTER_RMS=jitter_rms NONLINEARITY_A2=nonlinearity_a2 NONLINEARITY_A3=nonlinearity_a3 DNL_SIGMA_LSB=dnl_sigma_lsb NOISE_SEED=noise_seed

save vin clk v_code
tran tran stop=t_stop maxstep=0.25/fs
